US04461902
Methyl 1-methyl-4-oxo-2-cyclohexenecarboxylate [J. Am. Chem. Soc., 101, 6996 (1979)] (100 g) was dissolved in ethyl acetate (600 ml), 10% Pd-C (5 g) was added, and catalytic reduction was carried out at room temperature and 1 atomosphere. About 14 liters of hydrogen was absorged in about 2 hours. The catalyst was filtered off, and the filtrate was concentrated and distilled under reduced pressure to give methyl 1-methyl-4-oxocyclohexanecarboxylate (96.5 g, 95.4%, b.p. 82°-84° C./0.5 mmHg).

reactant | Methyl 1-methyl-4-oxo-2-cyclohexenecarboxylate | 100 g | CC1(C=CC(CC1)=O)C(=O)OC | C9H12O3
reactant | hydrogen | 14 liters | [H][H] | H2
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 5 g | [Pd] | Pd
product | methyl 1-methyl-4-oxocyclohexanecarboxylate | 96.5 g, 95.4% | CC1(CCC(CC1)=O)C(=O)OC | C9H14O3
